US07585878B2
N-(3-Aminophenyl)acetamide was treated with 2-nitrophenylsulfonyl chloride in the presence of triethylamine and then the resulting compound was treated with iodomethane and potassium carbonate. Thereafter, the product was treated with thioglycolic acid to obtain N-[3-(methylamino)phenyl]acetamide.

reactant | N-(3-Aminophenyl)acetamide | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | 2-nitrophenylsulfonyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | iodomethane | IC | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | thioglycolic acid | C(CS)(=O)O | C2H4O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[3-(methylamino)phenyl]acetamide | CNC=1C=C(C=CC1)NC(C)=O | C9H12N2O
